US06903132B2
To a one necked round bottom flask 2,6-dimethylphenol (13.88 g, 113.6 mmol), 2,5-dichloro-dimethylhexane were added followed by 460 mL of nitromethane. A clear light yellow solution was cooled in a water bath. Aluminum chloride (15.2 g, 113.9 mmol) was added in small portions into the flask. The reaction mixture changed color from pale yellow to green then brown during the addition of aluminum chloride. The reaction was stirred overnight at room temperature and quenched with water. The content was extracted with ethyl acetate and washed with sodium bicarbonate and brine. Crude product was purified by plug of silica gel 5:95 ethyl acetate:hexane to obtain 19.3 g of 1,3,5,5,8,8-hexamethyl-5,6,7,8-tetrahydronaphthalen-2-ol. 1H NMR (300 MHz, CDCl3) δ 1.40 (s, 6H), 1.67(m, 4H), 2.16 (s, 3H), 2.36 (s, 3H), 2.56 (s, 3H), 3.90 (s, 3H), 5.03(d, 1H, J=3.59 Hz), 6.33 (s, 1H), 6.89(d, 1H, J=3.59 Hz), 7.07 (s, 1H), 7.11(d, 1H, J=3.59 Hz), 8.29 (bs, 1H).

reactant | 2,6-dimethylphenol | 113.6 mmol, 13.88 g | CC1=C(C(=CC=C1)C)O | C8H10O
reactant | 2,5-dichloro-dimethylhexane | ClC(C)(CCC(C)(Cl)C)C | C8H16Cl2
reactant | Aluminum chloride | 113.9 mmol, 15.2 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | nitromethane | 460 mL | [N+](=O)([O-])C | CH3NO2
product | 1,3,5,5,8,8-hexamethyl-5,6,7,8-tetrahydronaphthalen-2-ol | 19.3 g | CC1=C(C(=CC=2C(CCC(C12)(C)C)(C)C)C)O | C16H24O
